US07572921B2
To a solution of 2-nitroimidazole and 1-bromomethyl-3,5-dichloro-benzene in anhydrous DMSO was added Na2CO3. The reaction mixture was heated to 60° C. for 6 h. The reaction mixture was then diluted with EtOAc and washed with water (×4). The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 98:2 CH2Cl2:MeOH to afford 1-(3,5-dichloro-benzyl)-2-nitro-1H-imidazole (0.66 g, 91%).

reactant | 2-nitroimidazole | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 1-bromomethyl-3,5-dichloro-benzene | BrCC1=CC(=CC(=C1)Cl)Cl | C7H5BrCl2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3,5-dichloro-benzyl)-2-nitro-1H-imidazole | 0.66 g, 91% | ClC=1C=C(CN2C(=NC=C2)[N+](=O)[O-])C=C(C1)Cl | C10H7Cl2N3O2
